US06313127B1
1-(5-bromo-2-pyridyl)-4-(4-pyridyl)piperazine
A mixture of 1-(4-pyridyl)piperazine (3.26 g, 20 mmol) and 2,5-dibromopyridine (2.36 g) was heated gradually on an oil bath up to 200° C. At approximately 150° C. a clear, slightly coloured melt was obtained and at approximately 180° C. a vigorous reaction set in which caused the melt to darken markedly. The now-dark melt was heated at 200° C. for 10 minutes then allowed to cool to room temperature. The solid reaction mixture was dissolved in methanol (100 mL) and poured into water (100-150 mL). The resultant precipitate was collected, washed with water, dried, then recrystallised from hot aqueous methanol to give the product (1.6 g, 25% yield) as a buff-coloured solid: m.p. 176-180° C.; NMR (DMSO-d6), 3.32 (4H, m), 3.50 (4H, m), 6.72 (2H, m), 6.75 (1H, d), 7.59 (1H, dd), 8.05 (3H, m); Found: MH+, 319/321; C14H15BrN4 requires MH+, 319/321.

reactant | 1-(4-pyridyl)piperazine | 20 mmol, 3.26 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | 2,5-dibromopyridine | 2.36 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | water | 100-150 mL | O | H2O
solvent | methanol | 100 mL | CO | CH4O
product | 1-(5-bromo-2-pyridyl)-4-(4-pyridyl)piperazine | 1.6 g, 25% yield | BrC=1C=CC(=NC1)N1CCN(CC1)C1=CC=NC=C1 | C14H15BrN4
